US07381719B2
Add anhydrous dichloromethane (400 mL) to 2-(4-methoxy-phenyl)-2-methyl-propionitrile (11.93 g, 68.1 mmol) and cool to −78° C. under nitrogen. Then add boron tribromide (33.0 mL, 349 mmol) and stir at −78° C. for 30 minutes. Remove the dry ice/acetone bath and allow the reaction to warm to room temperature. Stir for 3 h and then pour the reaction onto ice. Extract with ethyl acetate (2×150 mL), dry the extracts over magnesium sulfate, filter, and concentrate on a rotary evaporator to give the crude product. The crude product is purified by flash chromatography on silica gel eluting with 35% ethyl acetate/hexanes to yield 9.79 g (89%) of 2-(4-hydroxy-phenyl)-2-methyl-propionitrile: TLC: Rf in 40% ethyl acetate/hexanes: 0.38; 1H NMR (CDCl3): 7.34-7.32 (m, 2H), 6.86-6.83 (m, 2H), 5.23 (s, 1H), 1.70 (s, 6H).

reactant | 2-(4-methoxy-phenyl)-2-methyl-propionitrile | 68.1 mmol, 11.93 g | COC1=CC=C(C=C1)C(C#N)(C)C | C11H13NO
reactant | boron tribromide | 349 mmol, 33.0 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
product | 2-(4-hydroxy-phenyl)-2-methyl-propionitrile | 9.79 g, 89% | OC1=CC=C(C=C1)C(C#N)(C)C | C10H11NO
